US04695654
To a mixture of 1-phthalimido-4-p-toluenesulfonyl-6,6-difluoro-8-hydroxy-4-aza-octane (6.75 g, 14.5 mM), dry dichloromethane (25 mL) and dry pyridine (10 mL), a solution of methanesulfonyl chloride (1.7 g) in dichloromethane (25 mL) is slowly added with stirring. The reaction mixture is kept at room temperature overnight, additional dichloromethane is added, and the reaction mixture is washed with 1N HCl (twice) and then washed with brine (twice). The resulting solution is dried (Na2SO4) and the solvent evaporated to yield an oil. Upon scratching this oil with eher/petroleum ether, the compound 1-phthalimido-4-p-toluenesulfonyl-6,6-difluoro-8-methanesulfonyloxy-4-aza-octane is obtained as white crystals: 7.64 g (97%).

reactant | 1-phthalimido-4-p-toluenesulfonyl-6,6-difluoro-8-hydroxy-4-aza-octane | 14.5 mM, 6.75 g | C1(C=2C(C(N1CCCN(CC(CCO)(F)F)S(=O)(=O)C1=CC=C(C=C1)C)=O)=CC=CC2)=O | C22H24F2N2O5S
reactant | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 1.7 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 1-phthalimido-4-p-toluenesulfonyl-6,6-difluoro-8-methanesulfonyloxy-4-aza-octane | C1(C=2C(C(N1CCCN(CC(CCOS(=O)(=O)C)(F)F)S(=O)(=O)C1=CC=C(C=C1)C)=O)=CC=CC2)=O | C23H26F2N2O7S2
